US04309566
This compound was prepared in the manner of Example 1, using 10.0 grams (0.052 mole) of 2,6-dichlorobenzoic acid, 2.9 grams (0.052 mole) of potassium hydroxide, 3.9 grams (0.052 mole) of chloroacetonitrile, and 1.4 grams of 1,4,7,10,13,16-hexaoxacyclooctadecane in 160 ml of dry toluene. The crude product was distilled to give 7.3 grams of cyanomethyl 2,6-dichlorobenzoate; bp 107°/0.006 mm. The ir and the nmr spectra were consistent with the proposed structure.

reactant | 2,6-dichlorobenzoic acid | 0.052 mole, 10.0 grams | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | potassium hydroxide | 0.052 mole, 2.9 grams | [OH-].[K+]
reactant | chloroacetonitrile | 0.052 mole, 3.9 grams | ClCC#N | C2H2ClN
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 1.4 grams | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | cyanomethyl 2,6-dichlorobenzoate | 7.3 grams | ClC1=C(C(=O)OCC#N)C(=CC=C1)Cl | C9H5Cl2NO2
